US07279481B2
N-(3-{2-[4-(2-methyl-5-quinazolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide (E147)
A mixture of 2-methyl-5-(1-piperazinyl)quinazoline (50 mg), 2-{3-[(methylsulfonyl)amino]phenyl}ethyl methanesulfonate (65 mg), diisopropylethylamine (192 μL) and DMF (0.5 mL) was heated to 100° C. in a sealed tube and stirred for 24 hours. The mixture was cooled to room temperature and partitioned between aqueous ammonium chloride solution and ethyl acetate. The organic layer was washed (water, brine), dried (sodium sulfate) and concentrated in vacuo. The residue was purified by column chromatography [SiO2; DCM-MeOH: (100:0)→(95:5)] to give the title compound as a beige foam (35 mg).

reactant | 2-methyl-5-(1-piperazinyl)quinazoline | 50 mg | CC1=NC2=CC=CC(=C2C=N1)N1CCNCC1 | C13H16N4
reactant | 2-{3-[(methylsulfonyl)amino]phenyl}ethyl methanesulfonate | 65 mg | CS(=O)(=O)OCCC1=CC(=CC=C1)NS(=O)(=O)C | C10H15NO5S2
reactant | diisopropylethylamine | 192 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(3-{2-[4-(2-methyl-5-quinazolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide | 35 mg | CC1=NC2=CC=CC(=C2C=N1)N1CCN(CC1)CCC=1C=C(C=CC1)NS(=O)(=O)C | C22H27N5O2S
